US08309546B2
(2S)-4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]-2-methylpiperazine-1-carboaldehyde
5-{9-Isobutyl-8-[(3S)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine (123.4 mg, 0.27 mmol) was added to a tetrahydrofuran solution (7.0 ml) of 1H-benzotriazole-1-carboxyaldehyde (44.6 mg, 0.27 mmol) at room temperature and the resulting mixture was stirred for 35 minutes. Methylene chloride was added to the reaction mixture and then the resulting mixture was poured into a 2 N aqueous sodium hydroxide solution and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to give the title compound (98.3 mg, 75%) as a pale yellow solid.

reactant | 5-{9-Isobutyl-8-[(3S)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.27 mmol, 123.4 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1C[C@@H](NCC1)C)N1CCOCC1)C=1C=NC(=NC1)N | C22H32N10O
reactant | tetrahydrofuran | 7.0 ml | O1CCCC1 | C4H8O
reactant | 1H-benzotriazole-1-carboxyaldehyde | 0.27 mmol, 44.6 mg | CN(C)CCS(=O)(=O)O | C4H11NO3S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | (2S)-4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]-2-methylpiperazine-1-carboaldehyde | 98.3 mg, 75% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1C[C@@H](N(CC1)C=O)C)N1CCOCC1 | C23H32N10O2
